US05457192
0.21 g (1.00 mmol) of the above mesyl compound, 0.58 g (3.00 mmol) of anhydrous cesium acetate, and 0.26 g (1.00 mmol) of 18-crown-6-ether were added to 10 ml of dimethylformamide, and the mixture was heated under stirring at 120° C. for 19 hours. After the reaction solution was naturally cooled, it was washed with chloroform, and the solvent was distilled at a reduced pressure. The residue was purified using a silica gel column (hexane:ethyl acetate=4:1 to 3:1) to obtain 0.12 g (yield: 68.8%) of 2-O-acetyl-1,6-anhydro-3,4-dideoxy-β-D-erythro-hex-3-e nopyranose.

reactant | cesium acetate | 3.00 mmol, 0.58 g | C(C)(=O)[O-].[Cs+]
reactant | 18-crown-6-ether | 1.00 mmol, 0.26 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-O-acetyl-1,6-anhydro-3,4-dideoxy-β-D-erythro-hex-3-e nopyranose | 0.12 g, yield: 68.8% | C(C)(=O)O[C@H]1[C@H]2O[C@@H](C=C1)CO2 | C8H10O4
